US07964607B2
(a) 5-amino-1-(tetrahydro-2H-thiopyran-4-yl)-1H-pyrazole-4-carbonitrile
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile but substituting 1-(tetrahydro-2H-thiopyran-4-yl)hydrazine provided the title compound. 400 MHz 1H NMR (CDCl3) δ 7.44 (s, 1H), 4.71 (s, 2H), 3.84-3.76 (m, 1H), 2.80-2.63 (m, 4H), 2.24-2.10 (m, 4H). MS: (M+H m/z 209.1).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1)OC)C#N | C11H10N4O
reactant | 1-(tetrahydro-2H-thiopyran-4-yl)hydrazine | S1CCC(CC1)NN | C5H12N2S
product | 5-amino-1-(tetrahydro-2H-thiopyran-4-yl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1CCSCC1)C#N | C9H12N4S
